US08877782B2
b) 2-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-5-(5-methyl-4H-[1,2,4]triazol-3-yl)-pyridine
A mixture of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid hydrazide (300 mg, 0.6 mmol) and acetamidine hydrochloride (87 mg, 0.9 mmol) in DMF (6 mL) was heated at 120° C. for 2 h. A second portion of acetamidine hydrochloride (174 mg, 1.8 mmol) was added. After 8 h the mixture was cooled to room temperature and diluted with ethylacetate (40 mL). The mixture was filtered and the filtrates collected and washed with water (3×10 mL) and brine (10 mL) then dried over sodium sulfate, filtered and concentrated. Purification by chromatography (SiO2, 0-5% dichloromethane:methanol=100:0 to 95:5) followed by purification by HPLC (acetonitrile:water=2:8) gave the title compound (42 mg, 20%) as a white solid. MS: m/e=348.2 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid hydrazide | 0.6 mmol, 300 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)NN)C=C1 | C17H16N4O3
reactant | acetamidine hydrochloride | 0.9 mmol, 87 mg | Cl.C(C)(=N)N
reactant | acetamidine hydrochloride | 1.8 mmol, 174 mg | Cl.C(C)(=N)N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | ethylacetate | 40 mL | C(C)OC(C)=O | C4H8O2
product | 2-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-5-(5-methyl-4H-[1,2,4]triazol-3-yl)-pyridine | 42 mg, 20% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C=C1)C1=NN=C(N1)C | C19H17N5O2
